US08809363B2
Step 3: (S)-2-(4-(4-bromophenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)-2-(tert-butoxy)acetic acid
1 M Aqueous sodium hydroxide solution (1.6 mL, 1.6 mmol) was added to a solution of (S)-methyl 2-(4-(4-bromophenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)-2-(tert-butoxy)acetate (83 mg, 0.16 mmol) in 1:1 tetrahydrofuran/industrial methylated spirit (4 mL) at room temperature. The resulting mixture was heated to 60° C. and stirred at 60° C. 2 hours. The resulting solution was concentrated in vacuo and the residue was dissolved in water (10 mL). The aqueous solution was adjusted to pH 5 by the addition of 2 M aqueous hydrochloric acid solution and the resulting suspension was extracted with dichloromethane (20 mL). The organic layer was washed with brine, dried (MgSO4) and concentrated in vacuo to give the crude product as a pale yellow solid. This was purified by trituration with industrial methylated spirit (5 mL). The resulting solid was collected by filtration to give the title compound (27 mg, 34%) as a white solid.

reactant | sodium hydroxide | 1.6 mmol, 1 M, 1.6 mL | [OH-].[Na+]
reactant | (S)-methyl 2-(4-(4-bromophenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)-2-(tert-butoxy)acetate | 0.16 mmol, 83 mg | BrC1=CC=C(C=C1)C1=C2C(=NC(=C1[C@@H](C(=O)OC)OC(C)(C)C)C)SC1=C2CCCC1 | C25H28BrNO3S
product | (S)-2-(4-(4-bromophenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)-2-(tert-butoxy)acetic acid | 27 mg, 34% | BrC1=CC=C(C=C1)C1=C2C(=NC(=C1[C@@H](C(=O)O)OC(C)(C)C)C)SC1=C2CCCC1 | C24H26BrNO3S
